US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate:
To a solution of (S)-ethyl 2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate (3.80 g, 9.35 mmol) in tert-butyl acetate (94 mL) was added 70% perchloric acid (0.160 mL, 1.37 mmol). The reaction mixture was stirred for 5 h and quenched with solid sodium bicarbonate. The mixture was stirred for 5 minutes and saturated sodium bicarbonate solution was carefully added until pH 7, then diluted with water and extracted with ethyl acetate (2×). The combined organic layer was washed with saturated sodium bicarbonate solution and dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 25% ethyl acetate/hexanes) to give the desired product. 1H NMR (400 MHz, CDCl3) δ 8.08 (dd, J=8.7, 8.7 Hz, 2H), 7.63-7.55 (m, 2H), 5.75 (s, 1H), 4.3-4.1 (m, 2H), 2.63 (s, 3H), 2.47 (s, 3H), 1.20 (s, 3H), 1.17 (t, J=7.4 Hz, 3H).

reactant | (S)-ethyl 2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | 9.35 mmol, 3.80 g | CC=1C(=C(C2=CC=CC=C2C1C)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O | C17H17F3O6S
reactant | perchloric acid | 1.37 mmol, 0.160 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | tert-butyl acetate | 94 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | (S)-ethyl 2-tert-butoxy-2-(3,4-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C(=C1C)C)OS(=O)(=O)C(F)(F)F | C21H25F3O6S
